US05312828
E-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoxy Acetic Acid
To a suspension of sodium hydride (2.3 mml)in 5 mL of glyme is added portionwise (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenol prepared by the method of Example 18(i) from the methyl ester of the compound of Example 2. After stirring for 30 minutes, methyl bromoacetate (2.2 mmol) is added dropwise The reaction is stirred overnight at room temperature and then the mixture is poured into ice/water. The product is extracted into ethyl acetate (3×). The combined organic extracts are washed with water and brine and dried with anhydrous magnesium sulfate. The solvent is removed in vacuo. The residue is chromatographed on silica gel to give the esters of the title compound as an oil.

reactant | sodium hydride | [H-].[Na+]
reactant | (E)-3-[2-n-butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenol | C(CCC)C=1N(C(=CN1)/C=C(/CO)\CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C24H27ClN2O
reactant | methyl bromoacetate | 2.2 mmol | BrCC(=O)OC | C3H5BrO2
solvent | glyme | C(OC)COC | C4H10O2
product | E-3-[2-n-Butyl-1-{(2-chlorophenyl)methyl}-1H-imidazol-5-yl]-2-benzyl-2-propenoxy Acetic Acid | C(CCC)C=1N(C(=CN1)C/C=C/OC(C(=O)O)CC1=CC=CC=C1)CC1=C(C=CC=C1)Cl | C26H29ClN2O3
